US06087380
b) Methyl 6-chloro-5-methoxyacetamido-nicotinate
A solution of 0.75 g (4.02 mMol) of methyl 5-amino-6-chloro-nicotinate and 0.43 g=0.35 ml (4.5 mMol) of methoxyacetylchloride in 20 ml of chlorobenzene was stirred for one hour at 110° C. After the solvent had been removed in vacuo the crude product obtained was purified by flash chromatography (silica gel; methylene chloride/ethanol=100:1), evaporated down again in vacuo and then digested with petroleum ether. Yield: 0.55 g (53% of theory) light yellow amorphous solid, Rf value: 0.33 (silica gel; ethyl acetate/petroleum ether=1:4)

reactant | methyl 5-amino-6-chloro-nicotinate | 4.02 mMol, 0.75 g | NC=1C(=NC=C(C(=O)OC)C1)Cl | C7H7ClN2O2
reactant | methoxyacetylchloride | 4.5 mMol, 0.35 ml | COCC(=O)Cl | C3H5ClO2
solvent | chlorobenzene | 20 ml | ClC1=CC=CC=C1 | C6H5Cl
product | Methyl 6-chloro-5-methoxyacetamido-nicotinate | ClC1=NC=C(C(=O)OC)C=C1NC(COC)=O | C10H11ClN2O4
